US09127013B2
Step A2. Preparation of (3R,5R)-5-(3-fluorophenyl)pyrrolidin-3-ol
(R)-3-(tert-butyldimethylsilyloxy)-5-(3-fluorophenyl)-3,4-dihydro-2H-pyrrole (5.0 g, 17.0 mmol) was dissolved in 50 mL methanol and 10 mL AcOH and cooled to −40° C. NaBH4 (1.6 g, 43 mmol) was slowly added in small portions. The reaction was allowed to warm to ambient temperature. Most of the solvent was removed by rotary evaporation. The reaction was taken up in 200 mL of EtOAc, washed with 1 N NaOH, and filtered through Phase Separator filter paper, and concentrated. The crude product was taken up in 20 mL of 2 N HCl in dioxane. The reaction was concentrated, taken up in 200 mL of EtOAc, washed with 1 N NaOH, filtered, and concentrated, yielding the crude product, which was carried to the next step without further purification (2.93 g, 95% yield).

reactant | (R)-3-(tert-butyldimethylsilyloxy)-5-(3-fluorophenyl)-3,4-dihydro-2H-pyrrole | 17.0 mmol, 5.0 g | [Si](C)(C)(C(C)(C)C)O[C@H]1CN=C(C1)C1=CC(=CC=C1)F | C16H24FNOSi
reactant | AcOH | 10 mL | CC(=O)O | C2H4O2
reactant | NaBH4 | 43 mmol, 1.6 g | [BH4-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | (3R,5R)-5-(3-fluorophenyl)pyrrolidin-3-ol | 95% yield | FC=1C=C(C=CC1)[C@H]1C[C@H](CN1)O | C10H12FNO
